US04855442
5-Chlorodifluoromethyl-3-hydroxy-1-methylpyrazole
50.14 g (0.25 mol) of 3-chlorodifluoromethyl-3-methoxypropenoic acid ethyl ester was placed in a flask in ice water. 12.67 g (0.275 mol) of methylhydrazine was added while stirring until the reaction mixture boiled. Additional methylhydrazine was added and the mixture was left standing overnight. The solvent was evaporated off and the residue recrystallized from hot methylcyclohexane to give 17.4 g of off-white solid, m.p. 122°-123° C.

reactant | 3-chlorodifluoromethyl-3-methoxypropenoic acid ethyl ester | 0.25 mol, 50.14 g | C(C)OC(C(=C(OC)Cl)C(F)F)=O | C7H9ClF2O3
reactant | methylhydrazine | 0.275 mol, 12.67 g | CNN | CH6N2
product | 5-Chlorodifluoromethyl-3-hydroxy-1-methylpyrazole | 17.4 g | ClC1=C(C(=NN1C)O)C(F)F | C5H5ClF2N2O
